US05542952
1st Step: Preparation of 2-(β-Hydroxyethylthio)-4-Acetylaminonitrobenzene
Starting with 42.9 g (0.2 mol) of 2-chloro-4-acetylaminonitrobenzene and 23.4 g (0.3 mol) of 2-mercaptoethanol, pale yellow crystals (46.6 g) of the expected compound are obtained, the melting point of which is 174° C. (recrystallized from 96° ethanol) and the elemental analysis of which, calculated for C10H12N2O4S.1/2CH3CH2OH, is:

reactant | 2-chloro-4-acetylaminonitrobenzene | 0.2 mol, 42.9 g | ClC1=C(C=CC(=C1)NC(C)=O)[N+](=O)[O-] | C8H7ClN2O3
reactant | 2-mercaptoethanol | 0.3 mol, 23.4 g | SCCO | C2H6OS
product | 2-(β-Hydroxyethylthio)-4-Acetylaminonitrobenzene | OCCSC1=C(C=CC(=C1)NC(C)=O)[N+](=O)[O-] | C10H12N2O4S
